US09376422B2
Step 3: Synthesis of methyl 3-bromo-6-chloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylate
To a stirred solution of methyl 3-bromo-4,6-dichloropyridine-2-carboxylate (600 mg, 2.1 mmol) in DMF (5 ml) was added TEA (587 μl, 4.21 mmol) followed by N-methyloxan-4-amine (240 mg, 2.1 mmol) and the reaction mixture was heated at 80° C. for 20 h. The reaction mixture was then cooled to room temperature and poured onto water (100 ml), followed by extraction of the product into EtOAc (3×100 ml), washing of the combined organics with brine (50 ml), drying with Na2SO4 and evaporation. The crude product was then purified over a 10 g silica Isolute column eluting with a gradient of 0% to 100% EtOAc in heptane to afford the title compound as a white solid (110 mg, 14%). LC-MS 100%, 1.94 min (3.5 minute LC-MS method), m/z=362.8/365.2/346.8, 1H NMR (250 MHz, Chloroform-d) δ 6.87 (s, 1H), 4.17-3.99 (m, 2H), 3.98 (s, 3H), 3.93-3.70 (m, 1H), 3.41 (t, J=10.9 Hz, 2H), 2.81 (s, 3H), 1.93 (dd, J=11.9, 4.6 Hz, 2H), 1.71 (d, J=10.3 Hz, 2H).

reactant | methyl 3-bromo-4,6-dichloropyridine-2-carboxylate | 2.1 mmol, 600 mg | BrC=1C(=NC(=CC1Cl)Cl)C(=O)OC | C7H4BrCl2NO2
reactant | N-methyloxan-4-amine | 2.1 mmol, 240 mg | CNC1CCOCC1 | C6H13NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 3-bromo-6-chloro-4-[methyl(oxan-4-yl)amino]pyridine-2-carboxylate | 110 mg, 14% | BrC=1C(=NC(=CC1N(C1CCOCC1)C)Cl)C(=O)OC | C13H16BrClN2O3
